** Name: SimpleTwoStageOpAmp_SimpleOpAmp54_3

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp54_3 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=302e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=4e-6 W=89e-6
mDiodeTransistorPmos3 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=11e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos5 out outFirstStage sourceNmos sourceNmos nmos4 L=5e-6 W=487e-6
mNormalTransistorNmos6 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=4e-6 W=75e-6
mNormalTransistorNmos7 FirstStageYinnerSourceLoad2 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=4e-6 W=75e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=5e-6 W=62e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=5e-6 W=62e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=60e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=60e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=79e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=113e-6
mNormalTransistorPmos14 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=299e-6
mNormalTransistorPmos15 out ibias SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos16 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=82e-6
mNormalTransistorPmos17 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=82e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=36e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=36e-6
mNormalTransistorPmos20 SecondStageYinnerStageBias outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=532e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp54_3

** Expected Performance Values: 
** Gain: 129 dB
** Power consumption: 10.3471 mW
** Area: 10708 (mu_m)^2
** Transit frequency: 15.5211 MHz
** Transit frequency with error factor: 15.5207 MHz
** Slew rate: 20.3583 V/mu_s
** Phase margin: 60.1606°
** CMRR: 137 dB
** VoutMax: 3.52001 V
** VoutMin: 0.360001 V
** VcmMax: 4.93001 V
** VcmMin: 0.860001 V


** Expected Currents: 
** NormalTransistorPmos: -608.859 muA
** NormalTransistorPmos: -230.103 muA
** NormalTransistorPmos: -42.9839 muA
** NormalTransistorPmos: -73.3069 muA
** NormalTransistorPmos: -42.9839 muA
** NormalTransistorPmos: -73.3069 muA
** NormalTransistorNmos: 42.9831 muA
** NormalTransistorNmos: 42.9821 muA
** NormalTransistorNmos: 42.9831 muA
** NormalTransistorNmos: 42.9821 muA
** NormalTransistorNmos: 60.6431 muA
** NormalTransistorNmos: 30.3221 muA
** NormalTransistorNmos: 30.3221 muA
** NormalTransistorNmos: 1063.85 muA
** NormalTransistorPmos: -1063.84 muA
** NormalTransistorPmos: -1063.84 muA
** DiodeTransistorNmos: 608.86 muA
** DiodeTransistorNmos: 230.104 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.07701  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.971001  V
** inputVoltageBiasXXnXX2: 0.617001  V
** out: 2.5  V
** outFirstStage: 0.766001  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.607001  V
** innerTransistorStack1Load2: 0.401001  V
** innerTransistorStack2Load2: 0.402001  V
** sourceGCC1: 3.88201  V
** sourceGCC2: 3.88201  V
** sourceTransconductance: 1.85001  V
** innerStageBias: 4.08501  V


.END