** Name: SimpleTwoStageOpAmp_SimpleOpAmp54_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp54_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=22e-6
mDiodeTransistorNmos2 ibias ibias sourceNmos sourceNmos nmos4 L=8e-6 W=35e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=147e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=8e-6 W=534e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=93e-6
mNormalTransistorNmos9 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=3e-6 W=105e-6
mNormalTransistorNmos10 outInputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=8e-6 W=478e-6
mNormalTransistorNmos11 FirstStageYinnerSourceLoad2 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=3e-6 W=105e-6
mNormalTransistorNmos12 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=8e-6 W=85e-6
mNormalTransistorNmos13 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=8e-6 W=85e-6
mNormalTransistorNmos14 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=113e-6
mNormalTransistorNmos15 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=113e-6
mNormalTransistorNmos16 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=8e-6 W=316e-6
mNormalTransistorPmos17 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=24e-6
mNormalTransistorPmos18 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=147e-6
mNormalTransistorPmos19 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=167e-6
mNormalTransistorPmos20 FirstStageYinnerSourceLoad2 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=167e-6
mNormalTransistorPmos21 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mNormalTransistorPmos22 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mNormalTransistorPmos23 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 5.90001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp54_5

** Expected Performance Values: 
** Gain: 135 dB
** Power consumption: 10.6651 mW
** Area: 14917 (mu_m)^2
** Transit frequency: 15.5441 MHz
** Transit frequency with error factor: 15.5438 MHz
** Slew rate: 13.0688 V/mu_s
** Phase margin: 60.1606°
** CMRR: 143 dB
** VoutMax: 3 V
** VoutMin: 0.420001 V
** VcmMax: 4.66001 V
** VcmMin: 0.720001 V


** Expected Currents: 
** NormalTransistorNmos: 136.818 muA
** NormalTransistorNmos: 152.301 muA
** NormalTransistorPmos: -242.59 muA
** NormalTransistorPmos: -67.1669 muA
** NormalTransistorPmos: -111.686 muA
** NormalTransistorPmos: -67.1669 muA
** NormalTransistorPmos: -111.686 muA
** NormalTransistorNmos: 67.1661 muA
** NormalTransistorNmos: 67.1651 muA
** NormalTransistorNmos: 67.1661 muA
** NormalTransistorNmos: 67.1651 muA
** NormalTransistorNmos: 89.0421 muA
** NormalTransistorNmos: 44.5211 muA
** NormalTransistorNmos: 44.5211 muA
** NormalTransistorNmos: 1367.91 muA
** NormalTransistorPmos: -1367.9 muA
** DiodeTransistorPmos: -1367.9 muA
** DiodeTransistorNmos: 242.591 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -136.817 muA
** NormalTransistorPmos: -136.818 muA
** DiodeTransistorPmos: -152.3 muA
** DiodeTransistorPmos: -152.3 muA


** Expected Voltages: 
** ibias: 0.569001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.02701  V
** inputVoltageBiasXXpXX2: 2.37201  V
** out: 2.5  V
** outFirstStage: 0.822001  V
** outInputVoltageBiasXXpXX1: 2.43601  V
** outSourceVoltageBiasXXpXX1: 3.71801  V
** outSourceVoltageBiasXXpXX2: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.677001  V
** innerTransistorStack1Load2: 0.471001  V
** innerTransistorStack2Load2: 0.472001  V
** sourceGCC1: 3.08601  V
** sourceGCC2: 3.08601  V
** sourceTransconductance: 1.94201  V
** inner: 3.71101  V


.END