** Name: SimpleTwoStageOpAmp_SimpleOpAmp54_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp54_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX3 inputVoltageBiasXXnXX3 sourceNmos sourceNmos nmos4 L=4e-6 W=20e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=6e-6
mDiodeTransistorNmos3 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=560e-6
mDiodeTransistorPmos5 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=16e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos7 out inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=560e-6
mNormalTransistorNmos8 outFirstStage inputVoltageBiasXXnXX2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=5e-6 W=465e-6
mNormalTransistorNmos9 FirstStageYinnerSourceLoad2 inputVoltageBiasXXnXX2 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=5e-6 W=465e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=228e-6
mNormalTransistorNmos11 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=2e-6 W=228e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=15e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=15e-6
mNormalTransistorNmos14 FirstStageYsourceTransconductance inputVoltageBiasXXnXX3 sourceNmos sourceNmos nmos4 L=4e-6 W=474e-6
mNormalTransistorNmos15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mNormalTransistorPmos16 inputVoltageBiasXXnXX3 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorPmos17 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=27e-6
mNormalTransistorPmos18 inputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=39e-6
mNormalTransistorPmos19 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=449e-6
mNormalTransistorPmos20 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=296e-6
mNormalTransistorPmos21 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=296e-6
mNormalTransistorPmos22 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=330e-6
mNormalTransistorPmos23 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=330e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 5.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp54_9

** Expected Performance Values: 
** Gain: 116 dB
** Power consumption: 14.9991 mW
** Area: 11020 (mu_m)^2
** Transit frequency: 15.8121 MHz
** Transit frequency with error factor: 15.8114 MHz
** Slew rate: 41.1894 V/mu_s
** Phase margin: 60.1606°
** CMRR: 137 dB
** VoutMax: 4.25 V
** VoutMin: 0.840001 V
** VcmMax: 5.17001 V
** VcmMin: 0.990001 V


** Expected Currents: 
** NormalTransistorPmos: -39.5409 muA
** NormalTransistorPmos: -26.8329 muA
** NormalTransistorPmos: -9.93899 muA
** NormalTransistorPmos: -218.012 muA
** NormalTransistorPmos: -334.578 muA
** NormalTransistorPmos: -218.012 muA
** NormalTransistorPmos: -334.578 muA
** NormalTransistorNmos: 218.013 muA
** NormalTransistorNmos: 218.012 muA
** NormalTransistorNmos: 218.013 muA
** NormalTransistorNmos: 218.012 muA
** NormalTransistorNmos: 233.13 muA
** NormalTransistorNmos: 116.566 muA
** NormalTransistorNmos: 116.566 muA
** NormalTransistorNmos: 2234.43 muA
** DiodeTransistorNmos: 2234.43 muA
** NormalTransistorPmos: -2234.42 muA
** DiodeTransistorNmos: 39.5401 muA
** NormalTransistorNmos: 39.5391 muA
** DiodeTransistorNmos: 26.8321 muA
** DiodeTransistorNmos: 9.93801 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.44801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.24401  V
** inputVoltageBiasXXnXX2: 0.921001  V
** inputVoltageBiasXXnXX3: 0.558001  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.622001  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.555001  V
** innerTransistorStack1Load2: 0.349001  V
** innerTransistorStack2Load2: 0.350001  V
** sourceGCC1: 4.21401  V
** sourceGCC2: 4.21401  V
** sourceTransconductance: 1.66501  V
** inner: 0.622001  V


.END