** Name: SimpleTwoStageOpAmp_SimpleOpAmp55_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp55_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=16e-6
mDiodeTransistorNmos2 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=1e-6 W=16e-6
mDiodeTransistorNmos3 ibias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=18e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=106e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=31e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=531e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=1e-6 W=16e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=8e-6 W=551e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=16e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=62e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=62e-6
mNormalTransistorNmos12 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=573e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=6e-6 W=86e-6
mNormalTransistorPmos14 outFirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=80e-6
mNormalTransistorPmos15 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=558e-6
mNormalTransistorPmos16 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=80e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=21e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=21e-6
Capacitor1 outFirstStage out 2.40001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp55_1

** Expected Performance Values: 
** Gain: 127 dB
** Power consumption: 11.2121 mW
** Area: 13237 (mu_m)^2
** Transit frequency: 20.7081 MHz
** Transit frequency with error factor: 20.7084 MHz
** Slew rate: 16.5897 V/mu_s
** Phase margin: 60.1606°
** CMRR: 147 dB
** VoutMax: 4.61001 V
** VoutMin: 0.510001 V
** VcmMax: 5.02001 V
** VcmMin: 0.75 V


** Expected Currents: 
** NormalTransistorNmos: 314.755 muA
** NormalTransistorNmos: 291.021 muA
** NormalTransistorPmos: -33.0629 muA
** NormalTransistorPmos: -56.6819 muA
** NormalTransistorPmos: -33.0649 muA
** NormalTransistorPmos: -56.6839 muA
** DiodeTransistorNmos: 33.0621 muA
** NormalTransistorNmos: 33.0631 muA
** NormalTransistorNmos: 33.0641 muA
** DiodeTransistorNmos: 33.0631 muA
** NormalTransistorNmos: 47.2351 muA
** NormalTransistorNmos: 23.6181 muA
** NormalTransistorNmos: 23.6181 muA
** NormalTransistorNmos: 1513.24 muA
** NormalTransistorPmos: -1513.23 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -314.754 muA
** DiodeTransistorPmos: -291.02 muA


** Expected Voltages: 
** ibias: 0.603001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 0.917001  V
** outVoltageBiasXXpXX2: 4.04601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.561001  V
** innerTransistorStack1Load2: 0.560001  V
** out1: 1.12201  V
** sourceGCC1: 4.40201  V
** sourceGCC2: 4.40201  V
** sourceTransconductance: 1.94501  V


.END